US04663341
Preparation of 3-(4-chlorophenyl)-4-phenyl-4,5-dihydro-1H-pyrazole
In a 500 ml round bottomed flask equipped with a reflux condensor was mixed 98 g of 2-phenyl 4'-chlorophenyl acrylophenone (0.40 mole), 200 ml n-propanol, and 50 ml hydrazine monohydrate (1.0 mole). The mixture was refluxed for 1 hour, cooled slightly and 100 ml of methanol added. The resulting solution was cooled in an ice bath and the resulting solid filtered and washed twice with cold ethyl ether yielding 55 g of a white solid. mp 156°-162° C.

reactant | 2-phenyl 4'-chlorophenyl acrylophenone | 0.40 mole, 98 g | C1(=CC=CC=C1)C1=C(C=CC=C1)C(C(=O)C1=CC=C(C=C1)Cl)=C | C21H15ClO
reactant | n-propanol | 200 ml | C(CC)O | C3H8O
reactant | hydrazine monohydrate | 1.0 mole, 50 ml | O.NN
solvent | methanol | 100 ml | CO | CH4O
product | 3-(4-chlorophenyl)-4-phenyl-4,5-dihydro-1H-pyrazole | ClC1=CC=C(C=C1)C1=NNCC1C1=CC=CC=C1 | C15H13ClN2
